US09260429B2
6-chloro-1,2-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (84 mg, 0.36 mmol) was dissolved in DMF (6 mL). To this solution was added CuI (8 mg, 0.035 mmol), L-proline (9 mg, 0.086 mmol), K3PO4 (183 mg, 0.862 mmol). The reaction mixture was stirred for 10 min at room temperature followed by addition of 4-(1-bromoprop-1-en-2-yl)-1,2-difluorobenzene (100 mg, 0.431 mmol). The reaction mixture was heated at 80° C. overnight. Solvent was evaporated under reduced pressure, the residue was diluted with brine and extracted with ethyl acetate. Organic layer was dried over Na2SO4, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography to obtain 43 mg of 6-chloro-9-(2-(3,4-difluorophenyl)prop-1-enyl)-1,2-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole. 1H NMR (CD3OD) OXALATE SALT 7.62 (m, 1H), 7.60 (s, 1H), 7.50 (m, 1H), 7.36 (m, 1H), 7.22 (m, 2H), 7.05 (s, 1H), 4.80 (m, 2H), 3.60 (m, 1H), 3.10 (m, 2H), 3.0 (s, 3H), 1.90 (s, 3H), 1.60 (d, 3H).

reactant | 6-chloro-1,2-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 0.36 mmol, 84 mg | ClC=1C=C2C3=C(NC2=CC1)C(N(CC3)C)C | C13H15ClN2
reactant | L-proline | 0.086 mmol, 9 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K3PO4 | 0.862 mmol, 183 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-(1-bromoprop-1-en-2-yl)-1,2-difluorobenzene | 0.431 mmol, 100 mg | BrC=C(C)C1=CC(=C(C=C1)F)F | C9H7BrF2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.035 mmol, 8 mg | [Cu]I
product | 6-chloro-9-(2-(3,4-difluorophenyl)prop-1-enyl)-1,2-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 43 mg | ClC=1C=C2C3=C(N(C2=CC1)C=C(C)C1=CC(=C(C=C1)F)F)C(N(CC3)C)C | C22H21ClF2N2
